US07741347B2
Step 1: (S)-1-Phenylethyl(R)-2-(4-hydroxy-4-phenylpiperidin-1-yl)-2-phenylacetate:
To a solution of (S)-1-phenylethyl 2-bromo-2-phenylacetate (1.50 g, 4.70 mmol) in THF (25 mL) was added triethylamine (1.31 mL, 9.42 mmol), followed by tetrabutylammonium iodide (0.347 g, 0.94 mmol). The reaction mixture was stirred at room temperature for 5 minutes and then a solution of 4-phenyl-4-hydroxypiperidine (1.00 g, 5.64 mmol) in THF (5 mL) was added. The mixture was stirred for 16 hours and then it was diluted with ethyl acetate (100 mL), washed (H2O×2, brine), dried (MgSO4), filtered and concentrated. The residue was purified on a silica gel column (0-60% ethyl acetate-hexane) to provide an approximately 2:1 mixture of diastereomers, as judged by 1H NMR. Separation of these isomers was performed using supercritical fluid chromatography (Chiralcel OJ-H, 30×250 mm; 20% ethanol in CO2 at 35° C.), to give first the (R)-isomer of the title compound (0.534 g, 27%) as a yellow oil and then the corresponding (S)-isomer (0.271 g, 14%), also as a yellow oil. (S,R)-isomer: 1H NMR (400 MHz, CD3OD) δ 7.55-7.47 (m, 4H), 7.44-7.25 (m, 10H), 7.25-7.17 (m, 1H), 5.88 (q, J=6.6 Hz, 1H), 4.12 (s, 1H), 2.82-2.72 (m, 1H), 2.64 (dt, J=11.1, 2.5 Hz, 1H), 2.58-2.52 (m, 1H), 2.40 (dt, J=11.1, 2.5 Hz, 1H), 2.20 (dt, J=12.1, 4.6 Hz, 1H), 2.10 (dt, J=12.1, 4.6 Hz, 1H), 1.72-1.57 (m, 2H), 1.53 (d, J=6.5 Hz, 3H). LCMS: Anal. Calcd. for C27H29NO3: 415. found: 416 (M+H)+; (S,S)-isomer: H1NMR (400 MHz, CD3OD) δ 7.55-7.48 (m, 2H), 7.45-7.39 (m, 2H), 7.38-7.30 (m, 5H), 7.25-7.13 (m, 4H), 7.08-7.00 (m, 2H), 5.88 (q, J=6.6 Hz, 1H), 4.12 (s, 1H), 2.95-2.85 (m, 1H), 2.68 (dt, J=11.1, 2.5 Hz, 1H), 2.57-2.52 (m, 1H), 2.42 (dt, J=11.1, 2.5 Hz, 1H), 2.25 (dt, J=12.1, 4.6 Hz, 1H), 2.12 (dt, J=12.1, 4.6 Hz, 1H), 1.73 (dd, J=13.6, 3.0 Hz, 1H), 1.64 (dd, J=13.6, 3.0 Hz, 1H), 1.40 (d, J=6.6 Hz, 3H). LCMS: Anal. Calcd. for C27H29NO3: 415. found: 416 (M+H)+.

reactant | (S)-1-phenylethyl 2-bromo-2-phenylacetate | 4.70 mmol, 1.50 g | BrC(C(=O)O[C@@H](C)C1=CC=CC=C1)C1=CC=CC=C1 | C16H15BrO2
reactant | triethylamine | 9.42 mmol, 1.31 mL | C(C)N(CC)CC | C6H15N
reactant | 4-phenyl-4-hydroxypiperidine | 5.64 mmol, 1.00 g | C1(=CC=CC=C1)C1(CCNCC1)O | C11H15NO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | tetrabutylammonium iodide | 0.94 mmol, 0.347 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (S)-1-Phenylethyl(R)-2-(4-hydroxy-4-phenylpiperidin-1-yl)-2-phenylacetate | 0.534 g, 27% | OC1(CCN(CC1)[C@@H](C(=O)O[C@@H](C)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H29NO3
